US06951879B2
To 1.17 ml (12 mmol) ethylaminoethanol in 8 ml THF were added 29.8 mg (0.3 mmol) CuCl, followed by 1 g (6.02 mmol) 1-ethynylcyclohexyl acetate. The solution was stirred at RT for 3 h, the solvent was removed and the residue dissolved in ether/2M HCl. The phases were separated, and after addition of NaOH (pH 11) to the aqueous phase, it was extracted with ether. The ether phase was dried over Na2SO4 and concentrated. Destillation by Kugelrohr yielded 2-[Ethyl-(1-ethynyl-cydohexyl)-amino]-ethanol as colorless oil, MS: 196 (MH+).

reactant | ethylaminoethanol | 12 mmol, 1.17 ml | C(C)NC(C)O | C4H11NO
reactant | 1-ethynylcyclohexyl acetate | 6.02 mmol, 1 g | C(C)(=O)OC1(CCCCC1)C#C | C10H14O2
reactant | THF | 8 ml | C1CCOC1 | C4H8O
catalyst | CuCl | 0.3 mmol, 29.8 mg | Cl[Cu]
product | 2-[Ethyl-(1-ethynyl-cydohexyl)-amino]-ethanol | C(C)N(CCO)C1(CCCCC1)C#C | C12H21NO
